US09162981B2
3,5,5-trimethyl-4-oxo-4,5,6,7-tetrahydroindole
3,5,5-trimethyl-4-oxo-4,5,6,7-tetrahydroindole-2-carboxylic acid benzyl ester from the previous step, 6.60 g (21.20 mmol) and 2.0 g of 10% Pd—C was suspended in ethyl acetate 150 mL and hydrogenated under balloon of hydrogen for 3 hours. The reaction mixture was diluted with methanol 0.5 L and the mixture was stirred under Ar for 30 min to dissolve the precipitated carboxylic acid intermediate. The catalyst was then removed by filtration and the filtrates were evaporated to dryness and dried on highvac. The residue was dissolved in trifluoroacetic acid 40 mL, the solution was stirred on a 45° C. bath for 30 min, then evaporated to dryness. The residue was dried on highvac. The crude material was applied onto a column of silica (60 g) in dichloromethane and eluted with 10:1 dichloromethane-ethyl acetate mixture. Y=3.17 g (84% overall) of 3,5,5-trimethyl-4-oxo-4,5,6,7-tetrahydroindole as a white solid that gradually turns pink on air and light. 1H-NMR (d6-DMSO, 400 MHz): 10.89 (br s, 1H), 6.44 (s, 1H), 2.72 (t, 6.3 Hz, 2H), 2.12 (s, 3H), 1.85 (t, 6.3 Hz, 2H), 1.04 (s, 6H)

reactant | 3,5,5-trimethyl-4-oxo-4,5,6,7-tetrahydroindole-2-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)C=1NC=2CCC(C(C2C1C)=O)(C)C | C19H21NO3
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
solvent | methanol | 0.5 L | CO | CH4O
catalyst | Pd—C | 2.0 g | [Pd] | Pd
product | 3,5,5-trimethyl-4-oxo-4,5,6,7-tetrahydroindole | CC1=CNC=2CCC(C(C12)=O)(C)C | C11H15NO
